US08222245B2
1,1-Dimethylethyl 8-[(phenylmethyl)oxy]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
BOC2O (7.52 ml, 32.4 mmol) was added to a solution of 8-[(phenylmethyl)oxy]-2,3,4,5-tetrahydro-1,4-benzoxazepine (Preparation 28) (7.52 g, 29.5 mmol) in DCM (100 ml) and kept at room temperature for 30 minutes. Then the reaction was evaporated to dryness and purified by flash chromatography eluting with 5% EtOAc in iso-hexane changing to 15% EtOAc in iso-hexane to elute product. Triturated with iso-hexane and filtered off to give 7.37 g of white solid. MS (ES) C21H25NO4 requires 355; found 300 [M+H−56]+.

reactant | BOC2O | 32.4 mmol, 7.52 ml | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | 8-[(phenylmethyl)oxy]-2,3,4,5-tetrahydro-1,4-benzoxazepine | 29.5 mmol, 7.52 g | C1(=CC=CC=C1)COC1=CC2=C(CNCCO2)C=C1 | C16H17NO2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 1,1-Dimethylethyl 8-[(phenylmethyl)oxy]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 7.37 g | C1(=CC=CC=C1)COC1=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C=C1 | C21H25NO4
